US06500853B1
Methyl 4-({2-[1-benzhydryl-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indol-3-yl]ethyl}sulfonyl)benzoate (1 eq) was dissolved in THF (0.3M), followed by nBu4NF (1M in THF) (1.2 eq). The resulting mixture was stirred at rt for 3 hrs, then quenched with NH4Cl(aq). Extracted with EtOAc and washed with brine. Purified with prep plate and 1:3 EtOAc/Hexane as eluent to give methyl 4-({2-[1-benzhydryl-5-chloro-2-(hydroxymethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoate (light brown gum) in 95% yield.

reactant | Methyl 4-({2-[1-benzhydryl-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indol-3-yl]ethyl}sulfonyl)benzoate | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C(=O)OC)C=C1)CO[Si](C)(C)C(C)(C)C | C38H42ClNO5SSi
reactant | nBu4NF | 1M, 1.2 eq | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.3M | C1CCOC1 | C4H8O
product | methyl 4-({2-[1-benzhydryl-5-chloro-2-(hydroxymethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoate | 95% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C(=O)OC)C=C1)CO | C32H28ClNO5S
